US09284323B2
Preparation of (S)-2-(7-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-tert-butoxyethyl pivalate:
To a solution of (S)-7-bromo-2-(1-tert-butoxy-2-hydroxyethyl)-3-methylnaphthalen-1-ol (1.84 g, 5.20 mmol) in CH2Cl2 (15 mL) added imidazole (426 mg, 6.25 mmol) and pivalyl chloride (705 μL, 5.7 mmol). The reaction was stirred at room temperature for 36 h. A saturated solution of NH4Cl was added. The layers were separated, and the organic layer was dried, filtered, and concentrated in vacuo. The crude material was purified by column chromatography (EtOAc/hexanes) to give the product. 1H-NMR: 400 MHz, (CDCl3) δ: 8.21 (s, 1H), 7.63 (m, 2H), 7.26 (s, 1H), 5.47 (dd, J=10, 3 Hz, 1H), 4.62 (dd, J=12, 10 Hz, 1H), 4.14 (dd, J=12, 3 Hz, 1H), 2.75 (s, 3H), 1.22 (s, 9H) 1.11 (s, 9H).

reactant | (S)-7-bromo-2-(1-tert-butoxy-2-hydroxyethyl)-3-methylnaphthalen-1-ol | 5.20 mmol, 1.84 g | BrC1=CC=C2C=C(C(=C(C2=C1)O)[C@@H](CO)OC(C)(C)C)C | C17H21BrO3
reactant | imidazole | 6.25 mmol, 426 mg | N1C=NC=C1 | C3H4N2
reactant | pivalyl chloride | 5.7 mmol, 705 μL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(7-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-tert-butoxyethyl pivalate | C(C(C)(C)C)(=O)OC[C@@H](OC(C)(C)C)C1=C(C2=CC(=CC=C2C=C1C)Br)O | C22H29BrO4
